US05001130
Synthesis of N-(4-Bromobutyl)-6-Methyl-Thieno[2,3-d]pyrimidin-4(3H)-one
To a stirring mixture of NaH (1.7 g, 0.072 mol) in 150 ml anhydrous DMF at room temperature was added 4.0 g (0.024 mol) of 6-methyl thieno[2,3-d]pyrimidin-4(3H)-one (IV-3) and, after the cessation of gas evolution, 20.7 g (0.96 mol) of 1,4-dibromobutane was added. Reaction was complete after 4 days. The solution was concentrated in vacuo, the residue partitioned between CH2Cl2 and water, and the organic phase isolated, dried (MgSO4), and filtered. The filtrate was concentrated and excess dibromobutane removed by Kugelrohr distillation. The solid product residue weighed 4.12 g (57%). The NMR was consistent with the assigned structure.

reactant | NaH | 0.072 mol, 1.7 g | [H-].[Na+]
reactant | 6-methyl thieno[2,3-d]pyrimidin-4(3H)-one | 0.024 mol, 4.0 g | CC1=CC2=C(N=CNC2=O)S1 | C7H6N2OS
reactant | 1,4-dibromobutane | 0.96 mol, 20.7 g | BrCCCCBr | C4H8Br2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | N-(4-Bromobutyl)-6-Methyl-Thieno[2,3-d]pyrimidin-4(3H)-one | BrCCCCN1CNC(C2=C1SC(=C2)C)=O | C11H15BrN2OS
